US07576115B2
Synthesis of 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene]hydrazino}carbonyl)-N-methylbenzenesulfonamide
1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (0.228 mmol, 62 mg), 4-(hydrazinocarbonyl)-N-methylbenzenesulfonamide (0.228 mmol, 52 mg) and p-tosylic acid monohydrate (30 mol %, 11.8 mg) were dissolved in isopropyl alcohol (6 mL) and stirred at 100° C. for 19 hours. Then, the solvent was evaporated, and the residue was purified by silica gel thin layer chromatography (chloroform/methanol=10/1) to give the desired product as a yellow solid (30.3 mg, yield 28%).

reactant | 1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.228 mmol, 62 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C16H20N2O2
reactant | 4-(hydrazinocarbonyl)-N-methylbenzenesulfonamide | 0.228 mmol, 52 mg | N(N)C(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C8H11N3O3S
solvent | isopropyl alcohol | 6 mL | C(C)(C)O | C3H8O
product | 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene]hydrazino}carbonyl)-N-methylbenzenesulfonamide | 30.3 mg, yield 28% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC=C(C=C1)S(=O)(=O)NC)O | C24H29N5O4S
